US09284286B2
To a mixture of 4-hydroxy-2-methyl-thiazole-5-carboxylic acid ethyl ester (7.2 g, 37.4 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (11.2 ml, 74.8 mmol) in DMF (50 ml) is added N,N-dimethyl-carbamothioyl chloride (6.94 g, 56.1 mmol). The mixture is stirred at RT for 14 h and at 60° C. for 3 h, poured onto water (100 ml) and extracted with EtOAc (3×50 ml). The combined organic layers are washed with water (2×50 ml), dried over sodium sulfate and concentrated. The residue is chromatographed (silica gel, 10% EtOAc/hexane) to give 4-(dimethyl-carbamothioyl)oxy-2-methyl-thiazole-5-carboxylic acid ethyl ester (5.7 g, 20.7 mmol, 55%).

reactant | 4-hydroxy-2-methyl-thiazole-5-carboxylic acid ethyl ester | 37.4 mmol, 7.2 g | C(C)OC(=O)C1=C(N=C(S1)C)O | C7H9NO3S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 74.8 mmol, 11.2 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N,N-dimethyl-carbamothioyl chloride | 56.1 mmol, 6.94 g | CN(C(=S)Cl)C | C3H6ClNS
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(dimethyl-carbamothioyl)oxy-2-methyl-thiazole-5-carboxylic acid ethyl ester | 20.7 mmol, 5.7 g, 55% | C(C)OC(=O)C1=C(N=C(S1)C)OC(N(C)C)=S | C10H14N2O3S2
